US07169761B2
28% methanol solution of sodium methoxide (0.5 ml) was added to a solution of methyl 2-[3-(chloromethyl)-5-[(2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl) tetrahydro-2H-pyran-2-yl]benzyl]azulene-1-carboxylate (0.06 g) in methanol (3.0 ml) at room temperature. The mixture was stirred for one hour. 10% aqueous solution of sodium hydroxide (3.0 ml) was further added to the reaction mixture and the mixture was refluxed with heating for one hour. After cooling to room temperature, the reaction mixture was neutralized by adding 10% aqueous solution of hydrochloric acid, extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain (1S)-1,5-anhydro-1-[3-(azulen-2-ylmethyl)-5-(methoxymethyl)phenyl]-D-glucitol (0.02 g).

reactant | sodium methoxide | 0.5 ml | C[O-].[Na+]
reactant | methyl 2-[3-(chloromethyl)-5-[(2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl) tetrahydro-2H-pyran-2-yl]benzyl]azulene-1-carboxylate | 0.06 g | ClCC=1C=C(CC2=C(C3=CC=CC=CC3=C2)C(=O)OC)C=C(C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C26H27ClO7
reactant | sodium hydroxide | 3.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3.0 ml | CO | CH4O
product | (1S)-1,5-anhydro-1-[3-(azulen-2-ylmethyl)-5-(methoxymethyl)phenyl]-D-glucitol | 0.02 g | C1=C(C=C2C=CC=CC=C12)CC=1C=C(C=C(C1)COC)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H28O6
